US06479490B2
A solution of 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)furan-2,5-dione (9 g, 26 mmol) in DMF (20 mL) was heated to about 140° C. Aqueous ammonia (20 mL) was added in portions and the heating was continued for 6 h. Water (20 mL) was added and the reaction mixture was allowed to stand at room temperature overnight. The orange colored solid was filtered off, washed with water and dried under vacuum to afford 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione (6.7 g, 75%).

reactant | 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)furan-2,5-dione | 26 mmol, 9 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C19H12N2O5
reactant | ammonia | 20 mL | N | H3N
reactant | Water | 20 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(1-methylindol-3-yl)-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | 6.7 g, 75% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C19H13N3O4
